US07846929B2
To a suspension of (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-phosphonic acid dimethyl ester (0.80 gm) in THF (10 mL) at −78° C. was added dropwise lithium diisopropylamide (1.17 mL of a 2.0 M solution in THF/heptane/ethylbenzene). The mixture was warmed to room temperature and a solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (0.48 g) in THF (10 mL) was added via cannula. The mixture was then stirred at room temperature for 2 h, quenched with brine (20 mL) and extracted into dichloromethane (2×20 mL). The combined organics were dried (MgSO4), reduced in vacuo and purified by column chromatography to give 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethylene)-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil (0.862 g).

reactant | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-phosphonic acid dimethyl ester | 0.80 gm | COP(OC)(=O)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C13H17ClN3O4PS
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.48 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.862 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C21H27ClN4O3S
